Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
shellfish
 
Attending: ___.
 
Chief Complaint:
Left tibial infection 
 
Major Surgical or Invasive Procedure:
L ___ and I&D 

 
History of Present Illness:
___ with history of tib-fib fracture complicated by multiple
infections (GAS and MSSA) who completed a 5 week course of
ceftriaxone via a PICC for GAS after debridement with subsequent
keflex for suppression, presents with 2 days of increased
swelling, redness, warmth and low grade fever.  

Pt has history of being involved in a MVA (as a pedestrian) on
___ w/ resultant left tib/fib fracture s/p repair w/ hardware
(nail) placement complicated by an infecion w/ I+D completed on
___. Intra-operative cultures w/ Group A Strep and MSSA
presumed cellulitis. Pt was discharged on a 10 day course of
Keflex.  Pt again presented in ___ w/ erythema/pain and was
again treated for presumed cellulitis with a PO regimen of
Keflex. On ___, pt developed significant erythema/swelling s/p
repeat I+D w/ evidence of abcess w/ expression of pus.
Intra-operative cultures positive for Group A Strep.  Pt was
initially started on Unasyn and Vancomycin; however, after
cultures/sensies returned pt was switched to Ceftriaxone 2g IV
Q24.  A PICC line was placed and pt was discharged home to
complete a 6 weeks course of ABX. The plan at time of discharge
was for the patient to begin suppression therapy (PO)  until 
such
time that his LLE intra-medullary rod can be removed.  Mr.
___ was seen in follow up in ___ clinic on ___ at which
point his ceftriaxone was dced and he was started on suppressive
keflex.  Last seen in clinic by Dr. ___ on ___ at which
point he was doing well w/ no swelling or erythema with
discussion of follow up at the end of ___. 

Redness and swelling localized over left tib-fib developed
yesterday. Noted fevers to 100 at home tonight so presented to 
ED
for evaluation. Area is warm and tender. Alleviated by 
oxycodone.
No pain at this time. Able to weight bear. Normal distal NV 
exam.

 
Past Medical History:
ADHD

 
Social History:
___
Family History:
NC
 
Physical Exam:
99.0 118 137/66 16 99% RA 
NAD, A&Ox3
RLE:
erythema, warmth and welling over anterior mid shin over old 
scar
skin intact
no fluctulance
no collections seen on US
___
SILT s/s/sp/dp/T
2+DP

On discharge:
___
SILT s/s/sp/dp/T
Incisions clean and dry

 
Pertinent Results:
___ 07:00AM BLOOD WBC-12.7* RBC-4.29* Hgb-12.0* Hct-37.4* 
MCV-87 MCH-27.9 MCHC-32.0 RDW-15.0 Plt ___
___ 12:50AM BLOOD ESR-50*
___ 12:50AM BLOOD CRP-78.5*

Operating room cultures NGTD, awaiting final culture data 
Universal PCR requested by ID team 
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left tibial infection and was admitted to the 
orthopedic surgery service and started on IV vancomycin and 
ceftriaxone. ID consult was called  The patient was taken to the 
operating room on ___ for L tibial nail ___ and I&D, 
which the patient tolerated well (for full details please see 
the separately dictated operative report). The patient was taken 
from the OR to the PACU in stable condition and after recovery 
from anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given anticoagulation per routine. The patients home 
medications were continued throughout this hospitalization. The 
Infectious disease was consulted and determined that a 6 week 
course of ceftriaxone and linezolid was needed and expected 
resolution of infection since all hardware had been removed. He 
will follow up in ___ clinic for tailoring antiobioics and follow 
up of culture data and universal PCR. Weekly labs will be sent 
to the ID office. The ___ hospital course was otherwise 
unremarkable.  

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is WBAT in the LLE extremity, and 
will be discharged on Aspirin 325 mg daily for DVT prophylaxis. 
The patient will follow up in two weeks per routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course, and all questions were answered 
prior to discharge.  

 
Medications on Admission:
keflex
adderall
oxycodone
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. CeftriaXONE 2 gm IV Q24H 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4-6hrs Disp #*50 
Tablet Refills:*0
5. Linezolid ___ mg PO Q12H 
6. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Left Tibia Infection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:  
MEDICATIONS:  
- Please take all medications as prescribed by your physicians 
at discharge.  
- Continue all home medications unless specifically instructed 
to stop by your surgeon.  
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.  
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect. 
-Please take Linezolid and Ceftriaxone as prescribed for your 
infection. Your blood will be drawn weekly for monitoring. Your 
antibiotics regimen will be managed by the Infectious Disease 
team. 

ANTICOAGULATION:
Take ASA 325 mg daily for 2 weeks 

WOUND CARE:  
- No baths or swimming for at least 4 weeks.  
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.  
- No dressing is needed if wound continues to be non-draining.  

ACTIVITY AND WEIGHT BEARING:  
- WBAT LLE
- Dry sterile dressing to LLE

Follow Up:  
Please follow up with ___ in the orthopedic trauma 
clinic ___ days post-operation for evaluation. Call 
___ to schedule appointment upon discharge.  

Please follow up with your primary care provider regarding this 
admission and any new medications/refills.  

Danger Signs:  
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:  
- Increasing pain that is not controlled with pain medications  
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision  
- Persistent or increasing numbness, tingling, or loss of 
sensation  
- Fever > 101.4  
- Shaking chills  
- Chest pain  
- Shortness of breath  
- Nausea or vomiting with an inability to keep food, liquid, 
medications down  
- Any other medical concerns  

Physical Therapy:
WBAT LLE 
Treatments Frequency:
Ceftriaxone antibiotic through PICC line Q24hrs 
 
Followup Instructions:
___